US06878715B1
(S)-7-benzyl-1(5-(4-nitrobenzoyloxy)hexyl)-3-methylxanthine (25 g, 49.5 mmol) was added to a solution for sodium hydroxide (3.36 g, 84 mmol) in methanol (200 ml). After stirring for 2 hours, the pH was adjusted to 4 by addition of 1 N hydrochloric acid solution. After concentrating under reduced pressure, the residue was partitioned between water (150 ml) and ethyl acetate (300 ml). The organic layer was washed with saturated aqueous sodium chloride solution (150 ml), dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel eluting with 20% hexane-ethyl acetate to provide (S)-7-benzyl-1-(5-hydroxyhexyl)-3-methylxanthine (14 g). c) A mixture of (S)-7-benzyl-1-(5-hydroxyhexyl)-3-methylxanthine (14 g, 39 mmol), acetic acid (100 ml), methanol (50 ml), and 10% palladium on carbon (5 g) was treated with hydrogen gels (40 psi) for 14 hours. The mixture was filtered and the filtrate was concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel eluting with 10% methanol-ethyl acetate to give (S)-1-(5-hydroxyhexyl)-3-methylxanthine (6.5 g).

reactant | (S)-7-benzyl-1(5-(4-nitrobenzoyloxy)hexyl)-3-methylxanthine | 49.5 mmol, 25 g | C(C1=CC=CC=C1)N1C=NC=2N(C(N(C(C12)=O)CCCC[C@H](C)OC(C1=CC=C(C=C1)[N+](=O)[O-])=O)=O)C | C26H27N5O6
reactant | sodium hydroxide | 84 mmol, 3.36 g | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
product | (S)-7-benzyl-1-(5-hydroxyhexyl)-3-methylxanthine | 14 g | C(C1=CC=CC=C1)N1C=NC=2N(C(N(C(C12)=O)CCCC[C@H](C)O)=O)C | C19H24N4O3
